US08558001B2
2,6-Dichloro-N-[4-(1-chloromethyl-2-oxo-1,2-dihydro-pyridin-4-yl)-benzyl]-benzamide from the previous step was dissolved in 50 mL DMF. Potassium carbonate (1 g) was added followed by potassium di(t-butyl)phosphate (2 g) and tetrabutylammonium iodide (50 mg). The mixture was stirred at 70° C. for four hours after which it was poured into 300 mL ethyl acetate. The organic phase was washed with water and brine, dried with magnesium sulfate and evaporated under vacuum. The crude product was further purified by silica gel chromatography (eluent: ethyl acetate), giving phosphoric acid di-tert-butyl ester 4-{4-[(2,6-dichloro-benzoylamino)-methyl]-phenyl}-2-oxo-2H-pyridin-1-ylmethyl ester as a colorless oil which slowly crystallized.

reactant | 2,6-Dichloro-N-[4-(1-chloromethyl-2-oxo-1,2-dihydro-pyridin-4-yl)-benzyl]-benzamide | ClC1=C(C(=O)NCC2=CC=C(C=C2)C2=CC(N(C=C2)CCl)=O)C(=CC=C1)Cl | C20H15Cl3N2O2
reactant | Potassium carbonate | 1 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium di(t-butyl)phosphate | 2 g | C(C)(C)(C)OP(=O)(OC(C)(C)C)[O-].[K+]
reactant | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
catalyst | tetrabutylammonium iodide | 50 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | phosphoric acid di-tert-butyl ester 4-{4-[(2,6-dichloro-benzoylamino)-methyl]-phenyl}-2-oxo-2H-pyridin-1-ylmethyl ester | ClC1=C(C(=O)NCC2=CC=C(C=C2)C2=CC(N(C=C2)COP(OC(C)(C)C)(OC(C)(C)C)=O)=O)C(=CC=C1)Cl | C28H33Cl2N2O6P
